### PR TITLE
[Merged by Bors] - chore: bump to nightly-2023-08-17

### PR DESCRIPTION
**Pull request by kim-em**
The major change here is adapting to `simp` failing if it makes no progress.
The vast majority of the redundant `simp`s found due to this change were extracted to #6632.

---

- [x] depends on https://github.com/leanprover/lean4/pull/2334
- [x] depends on https://github.com/leanprover/lean4/pull/2336
- [x] depends on https://github.com/leanprover/std4/pull/188
- [x] depends on https://github.com/leanprover/std4/pull/190
- [x] depends on https://github.com/JLimperg/aesop/pull/64
- [x] depends on #6622
- [x] depends on #6188
- [x] depends on #5992

### CODE REVIEW

File: Mathlib/Analysis/Convex/Between.lean [hunk 1]
```diff
@@ -70,8 +70,11 @@ theorem right_mem_affineSegment (x y : P) : y ∈ affineSegment R x y :=
 theorem affineSegment_same (x : P) : affineSegment R x x = {x} := by
   -- porting note: added as this doesn't do anything in `simp_rw` any more
   rw [affineSegment]
+  -- Note: when adding "simp made no progress" in lean4#2336,
+  -- somehow this `simp` doesn't work in `simp_rw`.
+  simp only [lineMap_same]
```
Comment (joneugster) [inline Mathlib/Analysis/Convex/Between.lean:75]: Interestingly it seems like `simp_rw` does work but it also throws the error:

The goal after this `simp only` is `(fun a ↦ ↑(const R R x) a) '' Set.Icc 0 1 = {x}`.

If I replace it with
```
skip
simp_rw [lineMap_same]
```
then having the cursor before skip says `↑(lineMap x x) '' Set.Icc 0 1 = {x}` but having it before `simp_rw` says `(fun a ↦ ↑(lineMap x x) a) '' Set.Icc 0 1 = {x}`, i.e. the same state you get with the `simp only`.

File: Mathlib/Analysis/Convex/Side.lean [hunk 2]
```diff
@@ -398,8 +398,12 @@ theorem _root_.Wbtw.wOppSide₁₃ {s : AffineSubspace R P} {x y z : P} (h : Wbt
...
   · rw [lineMap_apply_zero]; simp
   refine' Or.inr (Or.inr ⟨1 - t, t, sub_pos.2 ht1', ht0', _⟩)
-  simp_rw [lineMap_apply, vadd_vsub_assoc, vsub_vadd_eq_vsub_sub, ← neg_vsub_eq_vsub_rev z x,
-    vsub_self, zero_sub, ← neg_one_smul R (z -ᵥ x), ← add_smul, smul_neg, ← neg_smul, smul_smul]
+  rw [lineMap_apply, vadd_vsub_assoc, vsub_vadd_eq_vsub_sub]
+  -- TODO: this was a single `simp_rw` prior to adding the "simp made no progress feature"
+  -- this is worrying!
+  simp_rw [← neg_vsub_eq_vsub_rev z x]
+  rw [vsub_self]
+  simp_rw [zero_sub, ← neg_one_smul R (z -ᵥ x), ← add_smul, smul_neg, ← neg_smul, smul_smul]
```
Comment (joneugster) [inline Mathlib/Analysis/Convex/Side.lean:406]: I can't observe a similar behaviour here though... This is a bit worrying indeed.

File: lakefile.lean [hunk 3]
```diff
@@ -42,9 +42,9 @@ lean_exe checkYaml where
 meta if get_config? doc = some "on" then -- do not download and build doc-gen4 by default
 require «doc-gen4» from git "https://github.com/leanprover/doc-gen4" @ "main"
 
-require std from git "https://github.com/leanprover/std4" @ "main"
+require std from git "https://github.com/semorrison/std4" @ "simp_failIfUnchanged"
 require Qq from git "https://github.com/gebner/quote4" @ "master"
-require aesop from git "https://github.com/JLimperg/aesop" @ "master"
+require aesop from git "https://github.com/semorrison/aesop" @ "nightly-2023-08-16"
```
Comment (joneugster) [inline lakefile.lean:47]: changing back before the final merge

File: Mathlib/Analysis/SpecialFunctions/Gaussian.lean [hunk 4]
```diff
@@ -544,7 +544,7 @@ theorem _root_.fourier_transform_gaussian_pi (hb : 0 < b.re) :
   convert _root_.fourier_transform_gaussian h1 (-2 * π * t) using 1
   · congr 1 with x : 1
     congr 2
-    all_goals push_cast; ring
+    all_goals (try push_cast); ring
```
Comment (joneugster) [inline Mathlib/Analysis/SpecialFunctions/Gaussian.lean:547]: Would that be a case of `any_goals push_cast`?

File: Mathlib/AlgebraicTopology/SimplexCategory.lean [hunk 5]
```diff
@@ -279,7 +277,7 @@ theorem δ_comp_σ_self {n} {i : Fin (n + 1)} :
   dsimp [σ, δ, Fin.predAbove, Fin.succAbove]
   simp [Fin.lt_iff_val_lt_val, Fin.ite_val, Fin.dite_val]
   split_ifs
-  all_goals try simp <;> linarith
+  all_goals (try simp) <;> linarith
```
Comment (joneugster) [inline Mathlib/AlgebraicTopology/SimplexCategory.lean:280]: `any_goals simp`

**Review by joneugster — COMMENTED** [review]
Looked through all the files, basically everything is just removing superfluous `simp`-calls, except one deletion marked below.

In my optinion `any_goals simp` would be better than `_ <;> (try simp)` or `all_goals (try simp)` and it's a bit a shame that `<;> simp` does not work like `any_goals simp`.

One thing I did not check is if this PR really modifies all tactics that rely on `simp` making no progress.

File: test/says.lean [hunk 6]
```diff
@@ -40,7 +40,7 @@ example : true := by
 -- Check that `says` does not reverify the right-hand-side.
 set_option says.no_verify_in_CI true in
 example (x y : List α) : (x ++ y).length = x.length + y.length := by
-  simp? says simp only []
```
[the remark this answers is not in the document]
Comment (semorrison) [reply test/says.lean:43]: I don't think so. It's just that it doesn't make sense to call `says` with a failing tactic.

File: Mathlib/Init/Data/Nat/Lemmas.lean [hunk 7]
```diff
@@ -500,17 +500,6 @@ def subInduction {P : ℕ → ℕ → Sort u} (H1 : ∀ m, P 0 m) (H2 : ∀ n, P
...
-    p n := by
-  suffices ∀ n m, m < n → p m from this (succ n) n (lt_succ_self _)
-  intro n; induction' n with n ih
-  · intro m h₁; exact absurd h₁ m.not_lt_zero
-  · intro m h₁
-    apply Or.by_cases (Decidable.lt_or_eq_of_le (le_of_lt_succ h₁))
-    · intros; apply ih; assumption
-    · intros; subst m; apply h _ ih
-#align nat.strong_rec_on Nat.strongRecOn
-
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Init/Data/Nat/Lemmas.lean:513]: Sorry, my fault, borked the merge.

File: Mathlib/AlgebraicTopology/SimplexCategory.lean (hunk 5 above)
Comment (semorrison) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean:280]: Thanks.

Comment (semorrison) [reply Mathlib/AlgebraicTopology/SimplexCategory.lean]: Thanks.

File: Mathlib/Analysis/Convex/Side.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Analysis/Convex/Side.lean:406]:
```
simp_rw [lineMap_apply _, vadd_vsub_assoc _, vsub_vadd_eq_vsub_sub _, ← neg_vsub_eq_vsub_rev z x,
  vsub_self _, zero_sub, ← neg_one_smul R (z -ᵥ x), ← add_smul, smul_neg, ← neg_smul, smul_smul]
```
this also works by adding a single `_` after each lemma where `simp_rw` complains.

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean [hunk 8]
```diff
@@ -61,6 +61,7 @@ def GradedAlgebra.liftι :
   lift R ⟨by apply GradedAlgebra.ι R M, GradedAlgebra.ι_sq_zero R M⟩
 #align exterior_algebra.graded_algebra.lift_ι ExteriorAlgebra.GradedAlgebra.liftι
 
+set_option maxHeartbeats 400000 in
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:64]: Can you confirm this is still needed? This PR has had a lot of churn since you started!

File: Mathlib/Tactic/CategoryTheory/BicategoryCoherence.lean [hunk 9]
```diff
@@ -295,7 +295,8 @@ syntax (name := whisker_simps) "whisker_simps" : tactic
 elab_rules : tactic
 | `(tactic| whisker_simps) => do
   evalTactic (← `(tactic|
-    simp only [Category.assoc, Bicategory.comp_whiskerLeft, Bicategory.id_whiskerLeft,
+    simp (config := {failIfUnchanged := false}) only [Category.assoc,
```
Comment (eric-wieser) [inline Mathlib/Tactic/CategoryTheory/BicategoryCoherence.lean:298]: Can you add an explanation of why `failIfUnchanged` is helpful here? Should `whisker_simps` take it's own `config` argument to allow the caller to customize this?

**Review by eric-wieser — APPROVED** [review]
bors d+

File: Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean (hunk 8 above)
Comment (joneugster) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:64]: In a local test neither of these two lines are needed anymore (also not the following line). `count_heartbeats in` reports
> Used 144125 heartbeats, which is less than the current maximum of 200000.

Comment (joneugster) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:64]: Actually, looks like we can remove all 4 `set_option`s regarding heartbeats in this file now :tada:

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean:64]:
```suggestion
```

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/ExteriorAlgebra/Grading.lean]: Let's just remove the new one in this PR; I suspect the old ones are already unnecessary on master.

File: Mathlib/Tactic/CategoryTheory/BicategoryCoherence.lean (hunk 9 above)
Comment (semorrison) [reply Mathlib/Tactic/CategoryTheory/BicategoryCoherence.lean:298]: It hadn't even occurred to me this counted as a user facing tactic. Mostly it is just used as a component in `coherence`. But sure, I'll give it a `simp` configuration.

**Comment by semorrison** [comment]
bors merge
